US07645757B2
2.2. 3-[4-(1H-indol-1-yl)butyl]-1,3-oxazolidine-2,4-dione
A solution of 3 g (11.90 mmol) of 1-(4-bromobutyl)-1H-indole, prepared in stage 2.1., of 2.41 g (23.80 mmol) of 1,3-oxazolidin-2,4-dione (J. Med. Chem., 1991, 34, 1538-1544) and of 2.74 g (23.80 mmol) of 1,1,3,3-tetramethylguanidine in 30 ml of tetrahydrofuran is brought to reflux for 14 hours under an inert atmosphere.

reactant | 1-(4-bromobutyl)-1H-indole | 11.90 mmol, 3 g | BrCCCCN1C=CC2=CC=CC=C12 | C12H14BrN
reactant | 1,3-oxazolidin-2,4-dione | 23.80 mmol, 2.41 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | 1,1,3,3-tetramethylguanidine | 23.80 mmol, 2.74 g | CN(C(=N)N(C)C)C | C5H13N3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[4-(1H-indol-1-yl)butyl]-1,3-oxazolidine-2,4-dione | N1(C=CC2=CC=CC=C12)CCCCN1C(OCC1=O)=O | C15H16N2O3
